US06489517B1
Third Step of the Process: Preparation of 3,3′,6,6′-tetramethyl-2,2′-biphenol
To a 50 mL flask were added 0.5 g of 5,5′-Bis(t-butyl)-3,3′,6,6′-tetramethyl-2,2′-biphenol, 5 mL of xylenes and 0.05 g of p-toluenesulfonic acid. The mixture was refluxed for about 2 hours. The mixture was cooled and water added. The mixture was extracted with hexanes; the organic layer was washed with water and dried over MgSO4. After removing the solvent, the residue was recrystallized from petroleum ether.

reactant | 5,5′-Bis(t-butyl)-3,3′,6,6′-tetramethyl-2,2′-biphenol | 0.5 g | C(C)(C)(C)C1=CC(=C(C(=C1C)O)C=1C(=C(C(=CC1C)C(C)(C)C)C)O)C | C24H34O2
reactant | p-toluenesulfonic acid | 0.05 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 3,3′,6,6′-tetramethyl-2,2′-biphenol | CC1=C(C(=C(C=C1)C)O)C=1C(=C(C=CC1C)C)O | C16H18O2
